US08791129B2
{2-Amino-6-[5-fluoro-2-(4-hydroxypiperidin-1-ylmethyl)phenyl]quinazolin-4-yl}-(1,3-dihydroisoindol-2-yl)methanone (“A58”)
200 mg of [2-amino-6-(2-chloromethyl-5-fluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone are dissolved in 5 ml of acetonitrile. 301 mg of caesium carbonate and 57 μl of piperidin-4-ol are added, and the mixture is stirred at 80° C. for 16 h. After cooling to 25° C., the mixture is filtered, and the filtrate is evaporated to dryness. The residue is taken up in 5 ml of ethyl acetate, the solution is washed with 5 ml of 2N sodium hydroxide solution, and the combined organic phases are dried over sodium sulfate. After filtration, the filtrate is evaporated to dryness and purified by chromatography (reversed phase HPLC).

reactant | [2-amino-6-(2-chloromethyl-5-fluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 200 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=CC(=C1)F)CCl | C24H18ClFN4O
reactant | caesium carbonate | 301 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | piperidin-4-ol | 57 μl | N1CCC(CC1)O | C5H11NO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | {2-Amino-6-[5-fluoro-2-(4-hydroxypiperidin-1-ylmethyl)phenyl]quinazolin-4-yl}-(1,3-dihydroisoindol-2-yl)methanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=CC(=C1)F)CN1CCC(CC1)O | C29H28FN5O2
